US06737425B1
97-1) 4-Cyano-5-methyl-4-phenylhexanoic Acid
2-(1-Methylethyl)-5-oxo-2-phenylpentane nitrile, 6.00 g 27.9 mmol, was dissolved in a mixed solvent of water 55 ml/t-butyl alcohol 200 ml, and sodium dihydrogen phosphate 4.35 g 27.9 mmol and 2-methyl-2-butene 14.8 ml 139 mmol were further added thereto. Sodium chlorite 10.0 g 111 mmol in limited amounts was added thereto and stirred for 2 hours. The reaction mixture was ice-cooled and acidified by 2N hydrochloric acid. Then, it was extracted with ether, washed with dilute hydrochloric acid, dried over magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate/hexane system), whereby the title compound, 4.10 g 17.7 mmol, 63.4%, was obtained as a white solid.

reactant | 2-(1-Methylethyl)-5-oxo-2-phenylpentane nitrile | CC(C)C(C#N)(CCC=O)C1=CC=CC=C1 | C14H17NO
reactant | sodium dihydrogen phosphate | 27.9 mmol, 4.35 g | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 139 mmol, 14.8 ml | CC(C)=CC | C5H10
reactant | Sodium chlorite | 111 mmol, 10.0 g | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 55 ml | O | H2O
solvent | t-butyl alcohol | 200 ml | C(C)(C)(C)O | C4H10O
product | 4-Cyano-5-methyl-4-phenylhexanoic Acid | C(#N)C(CCC(=O)O)(C(C)C)C1=CC=CC=C1 | C14H17NO2
